US07329662B2
2-(4-Trifluoroethoxy-3-trifluoromethyl-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-(4-trifluoroethoxy-3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (382 mg, 1.0 mmol), prepared from 4-trifluoroethoxy-3-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 4-amino-5-cyano-1H-imidazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (182 mg, 40%). MS (ISP) 453.0 [M+]; mp 189° C.

reactant | 1-(4-trifluoroethoxy-3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 382 mg | FC(COC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)C(F)(F)F)(F)F | C13H7F9O3
reactant | 4-amino-5-cyano-1H-imidazole | 1.0 mmol, 108 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-(4-Trifluoroethoxy-3-trifluoromethyl-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 182 mg, 40% | FC(COC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N)C(F)(F)F)(F)F | C17H7F9N4O
